US07977370B2
4-dimethylamino-1-(3-methoxyphenyl)-4-phenylcyclohexanol (more non-polar diastereoisomer and more polar diastereoisomer)
4-(dimethylamino)-4-phenylcyclohexanone (4.34 g, 20 mmol) was dissolved in absolute tetrahydrofuran (60 ml) with the exclusion of oxygen, mixed with 3-methoxyphenyl magnesium bromide solution (45 ml, 45 mmol, 1N) with ice cooling and boiled to reflux for 2 h. For work up the batch was mixed with saturated NH4Cl solution (50 ml) with ice cooling and stirred for 10 min at room temperature. The aqueous phase was separated off and extracted with ethyl acetate (3×25 ml). The combined organic phases were dried over Na2SO4 and then concentrated to low volume. A raw product was isolated that was purified by chromatography [silica gel 60 (50 g); ethyl acetate (1000 ml), methanol (1000 ml)]. 2.5 g (38%, mp 116-117° C.) of more non-polar and 2.78 g (43%, mp 139-140° C.) of more polar product were obtained. Both could be recrystallised from ethyl acetate.

reactant | 4-(dimethylamino)-4-phenylcyclohexanone | 20 mmol, 4.34 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | 3-methoxyphenyl magnesium bromide | 45 mmol, 1N, 45 ml | COC=1C=C(C=CC1)[Mg]Br
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | oxygen | O=O | O2
product | 4-dimethylamino-1-(3-methoxyphenyl)-4-phenylcyclohexanol | CN(C1(CCC(CC1)(O)C1=CC(=CC=C1)OC)C1=CC=CC=C1)C | C21H27NO2
